US04898864
To a solution of 1.68 g (5 mmoles) of 2-[(5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthyl)carbonyl]benzoic acid in 20 cm3 of anhydrous dichloromethane, there is added 0.22cm3 (2.5 mmoles) of phosphorus trichloride. The mixture is heated for 3 hours at reflux. After cooling to +5° C., 2.6 cm3 (15 mmoles) of dibutylamine are added. Stirring is maintained for 30 minutes at +5° C., and then for 1 additional hour so as to permit the reaction mixture to return to ambient temperature. The reaction mixture is then diluted to about 80 cm3 by the addition of dichloromethane. It is then transferred to a decanting ampoule and washed first with diluted HCl and then with water. The dichloromethane phase is dried on sodium sulfate and then concentrated under reduced pressure. The resulting crude product is purified by chromatography on silica 60 gel in a 5/3/2 toluene/dichloromethane/ethyl acetate eluant mixture. After evaporation and drying under a vacuum a 80° C., 0.6 g of N,N-di-n-butyl 2-[(5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthyl) carbonyl]benzamide in the form of a colorless thick oil is obtained. The NMR1H 80 MHz and IR spectra correspond to the expected structure.

reactant | 2-[(5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthyl)carbonyl]benzoic acid | 5 mmoles, 1.68 g | CC1(C=2C=CC(=CC2C(CC1)(C)C)C(=O)C1=C(C(=O)O)C=CC=C1)C | C22H24O3
reactant | phosphorus trichloride | 2.5 mmoles, 0.22cm3 | P(Cl)(Cl)Cl | Cl3P
reactant | dibutylamine | 15 mmoles, 2.6 cm3 | C(CCC)NCCCC | C8H19N
solvent | dichloromethane | 20 cm3 | ClCCl | CH2Cl2
product | N,N-di-n-butyl 2-[(5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthyl) carbonyl]benzamide | 0.6 g | C(CCC)N(C(C1=C(C=CC=C1)C(=O)C1=CC=2C(CCC(C2C=C1)(C)C)(C)C)=O)CCCC | C30H41NO2
